US07939533B2
a) (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyrrolidin-1-yl]-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 0.20 g (0.33 mmol) (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide and 54 mg (0.37 mmol) phthalimide in 3 ml tetrahydrofuran were added 71 mg (0.37 mmol) diethyl azodicarboxylate (90%) and 97 mg (0.37 mmol) triphenylphosphine at 0° C. After stirring for 90 min. the reaction mixture was allowed to warm to room temperature over night. The mixture was diluted with a 0.1 M aqueous sodium hydroxide solution and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 70 mg (29%) of the title compound as a light yellow solid.

reactant | (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.33 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](CCC1)CO)(C)C)(F)F | C30H30F7N3O2
reactant | phthalimide | 0.37 mmol, 54 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 0.37 mmol, 71 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.37 mmol, 97 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 0.1 M | [OH-].[Na+]
product | (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyrrolidin-1-yl]-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 70 mg, 29% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](CCC1)CN1C(C2=CC=CC=C2C1=O)=O)(C)C)(F)F | C38H33F7N4O3
